US03946049
5-(p-Methylphenyl)-2-furamidoxime
A mixture of 9.0 g (0.050 mole) of 5-(p-methylphenyl)-2-furonitrile, 3.75 g (0.054 mole) of hydroxylamine hydrochloride, 3.5 g (0.054 mole) of potassium hydroxide and 125 ml of absolute ethanol was refluxed for 2 hours and then cooled in an ice bath. The insoluble material was filtered and discarded. The filtrate was added to a mixture of ice/H2O and the resulting solid was filtered and stirred in 150 ml of refluxing hexane. The mixture was filtered hot and the solid was air dried to yield 7 g (65%). An analytical sample was prepared by recrystallizing a sample form hexane/Darco and drying in the vacuum pistol at the temperature of refluxing CHCl3, m.p. 139°-141°.

reactant | 5-(p-methylphenyl)-2-furonitrile | 0.050 mole, 9.0 g | CC1=CC=C(C=C1)C1=CC=C(O1)C#N | C12H9NO
reactant | hydroxylamine hydrochloride | 0.054 mole, 3.75 g | Cl.NO
reactant | potassium hydroxide | 0.054 mole, 3.5 g | [OH-].[K+]
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 5-(p-Methylphenyl)-2-furamidoxime | CC1=CC=C(C=C1)C1=CC=C(O1)C(N)=NO | C12H12N2O2
